US05747517
The 4-bromomethylbenzyl alcohol (9.0 g, 43 mmol) was reduced to the corresponding aldehyde by dissolving the above-synthesized intermediate in methylene chloride and then adding pyridinium chlorochromate (14.1 g, 6.5 mmol). The reaction mixture was then allowed to stir at room temperature under a nitrogen atmosphere for about oone hour. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was then filtered through a CELITE® pad, concentrated in vacuo, and then partitioned between equal volumes of diethyl ether and water. The organic fraction was washed with water, then with brine, and dried over magnesium sulfate. The solvents were removed in vacuo to yield a white crystalline solid. Recrystallization from hot diethyl ether yielded 4.9 grams of 4-(bromomethyl)benzaldehyde as needle-like crystals.

reactant | 4-bromomethylbenzyl alcohol | 43 mmol, 9.0 g | BrCC1=CC=C(CO)C=C1 | C8H9BrO
reactant | pyridinium chlorochromate | 6.5 mmol, 14.1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(bromomethyl)benzaldehyde | 4.9 grams | BrCC1=CC=C(C=O)C=C1 | C8H7BrO
